US04349568
4-(2-Chloro-4-(methylsulfonyl)phenoxy)-1,2-dichlorobenzene
To a solution of 9.09 g (0.0558 mole) of 3,4-dichlorophenol dissolved in 150 ml of DMSO was added 2.23 g (0.0558 mole) of NaOH. The mixture was heated to 60° C. and 11.3 g (0.0502 mole) of 3,4-dichlorophenyl methyl sulfone was added and the mixture heated at 150° C. for 3.75 hrs. The mixture was cooled and poured into water. The crystalline product was collected by filtration, washed with water and dried, which gave 14.5 g (82.4% yield) of product. Recrystallization from ethanol afforded purified 4-(2-chloro-4-(methylsulfonyl)phenoxy)-1,2-dichlorobenzene, mp 102°-104° C.

reactant | 3,4-dichlorophenol | 0.0558 mole, 9.09 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | NaOH | 0.0558 mole, 2.23 g | [OH-].[Na+]
reactant | 3,4-dichlorophenyl methyl sulfone | 0.0502 mole, 11.3 g | CS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl | C7H6Cl2O2S
reactant | water | O | H2O
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | 4-(2-Chloro-4-(methylsulfonyl)phenoxy)-1,2-dichlorobenzene | 14.5 g, 82.4% yield | ClC1=C(OC2=CC(=C(C=C2)Cl)Cl)C=CC(=C1)S(=O)(=O)C | C13H9Cl3O3S
